US04560771
6-Bromo-2,2-dioxo-3-methyl-1,2-benzoxathiin-8-ylsulfonamide
A solution of 180 g of 6-bromo-2,2-dioxo-3-methyl-1,2-benzoxathiin-8-ylsulfonyl chloride in 500 ml of tetrahydrofuran is added dropwise over 30 minutes to 307 ml of a 30% aqueous solution of ammonia. The mixture is stirred for 30 minutes at 20° C. and concentrated under reduced pressure at 45° C. The residue is triturated with 200 ml of ether. The precipitate is isolated, washed with water and dried at 45° C., affording 63.2 g of 6-bromo-2,2-dioxo-3-methyl-1,2-benzoxathiin-8-ylsulfonamide of m.p. 243°-245° C. (recrystallisation from ethanol).

reactant | 6-bromo-2,2-dioxo-3-methyl-1,2-benzoxathiin-8-ylsulfonyl chloride | 180 g | BrC=1C=C(C2=C(C=C(S(O2)(=O)=O)C)C1)S(=O)(=O)Cl | C9H6BrClO5S2
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | 6-Bromo-2,2-dioxo-3-methyl-1,2-benzoxathiin-8-ylsulfonamide | BrC=1C=C(C2=C(C=C(S(O2)(=O)=O)C)C1)S(=O)(=O)N | C9H8BrNO5S2
